US06589950B1
Cyclopropylamine (6.65 g, 0.116M) and N,N-dfisopropylethylamine (20.8 ml, 0.116M) is added to a suspension of 2,6-dichloropurine (20 g,0.106M) in n-butanol (200 ml). The mixture is stirred at 60° C. for 20 hours. The mixture is cooled and the precipitate isolated by filtration, washed with n-butanol and dried under vacuum to give 6-cyclopropylamino-2-chloropurine; ES+ (M+1) 209.5; mp 249.7° C. dec.

reactant | Cyclopropylamine | 0.116M, 6.65 g | C1(CC1)N | C3H7N
reactant | 2,6-dichloropurine | 0.106M, 20 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 6-cyclopropylamino-2-chloropurine | C1(CC1)NC1=C2NC=NC2=NC(=N1)Cl | C8H8ClN5
